US06100275
(±)3-(4-Chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene Malonate
The title compound was prepared from 3-(4-chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol (4 g, 16 mmol), glacial acetic acid (15 mL) and concentrated hydrochloric acid (15 mL). Yield of free base (3.6 g, 97%). Some of the free base (1.44 g, 6 mmol) was dissolved in ethanol (96%) and added malonic acid (0.62 g, 6 mmol) in ethanol (96%). The resulting solution was concentrated to an oil, the oil was trituated in diethyl ether, the title compound precipitated as powder and was isolated by filtration. Yield (1.4 g, 71%) as white crystals m.p. 100.8-102.1° C.

reactant | 3-(4-chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | 16 mmol, 4 g | ClC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18ClNO
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | malonic acid | 6 mmol, 0.62 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | C(C)O | C2H6O
product | (±)3-(4-Chlorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene Malonate | C(CC(=O)O)(=O)O.ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | InChI=1S/C14H16ClN.C3H4O4/c1-16-13-6-7-14(16)9-11(8-13)10-2-4-12(15)5-3-10;4-2(5)1-3(6)7/h2-5,8,13-14H,6-7,9H2,1H3;1H2,(H,4,5)(H,6,7)
